US09315495B2
The compound was synthesized as in Example 87.1, using 4-hydroxy-2-methylbenzaldehyde (54.4 mg, 0.40 mmol) in place of 4-hydroxybenzaldehyde and 2-iodopropane (100 μL, 0.80 mmol) in place of 1-iodo-(3,3,3-trifluoro)propane to give 2-methyl-4-isopropoxybenzaldehyde (54 mg, 76%). Used without further characterization.

reactant | 4-hydroxy-2-methylbenzaldehyde | 0.40 mmol, 54.4 mg | OC1=CC(=C(C=O)C=C1)C | C8H8O2
reactant | 2-iodopropane | 0.80 mmol, 100 μL | IC(C)C | C3H7I
product | 2-methyl-4-isopropoxybenzaldehyde | 54 mg, 76% | CC1=C(C=O)C=CC(=C1)OC(C)C | C11H14O2
